*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : APXN160ARA101MF61G
*//   Date        : 2023/03/07
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------// 

.SUBCKT APXN160ARA101MF61G_20deg-C 1 2

C1 4 2 5.94e-05
C2 5 2 3.10e-05
C3 6 2 6.75e-06
R1 3 4 2.16e-02
R2 4 5 6.53e-02
R3 5 6 1.28e+00
L1 1 3 2.60e-09

.ENDS
*$
